US06043254
4.19 3-{(Z)-1-[4-(2,5-Dihydro-pyrrol-1-yl-methyl)anilino]1-phenylmethylidene}-5-nitro-2-indolinone
Prepared from 4-(2,5-dihydro-pyrrol-1-ylmethyl)aniline and 3-(1-ethoxy-1-phenylmethylidene)-5-nitro-2-indolinone in DMF.

reactant | 4-(2,5-dihydro-pyrrol-1-ylmethyl)aniline | N1(CC=CC1)CC1=CC=C(N)C=C1 | C11H14N2
reactant | 3-(1-ethoxy-1-phenylmethylidene)-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-{(Z)-1-[4-(2,5-Dihydro-pyrrol-1-yl-methyl)anilino]1-phenylmethylidene}-5-nitro-2-indolinone | N1(CC=CC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C26H22N4O3
